US07205302B2
5-(benzyloxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3,4-dihydronaphthalene
Under an argon atmospshere, 0.97 g of 60% sodium hydride was suspended in anhydrous N,N-dimethylformamide and 0.97 g of 5,6-diphenyl-2-(methylamino)-pyrazine was added in three portions. After stirring at 80° C. for 30 minutes, the reaction solution was ice-cooled and a solution of 0.97 g of 5-(benzyloxy)-2-(chloromethyl)-3,4-dihydronaphthalene in 5 ml of anhydrous N,N-dimethylformamide was added dropwise. After stirring for 30 minutes, the reaction solution was diluted with ice water and then extracted with diethyl ether. The extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.81 g of the desired compound as a pale yellow amorphous.

reactant | sodium hydride | 0.97 g | [H-].[Na+]
reactant | 5,6-diphenyl-2-(methylamino)-pyrazine | 0.97 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)NC | C17H15N3
reactant | 5-(benzyloxy)-2-(chloromethyl)-3,4-dihydronaphthalene | 0.97 g | C(C1=CC=CC=C1)OC1=C2CCC(=CC2=CC=C1)CCl | C18H17ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(benzyloxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3,4-dihydronaphthalene | 1.81 g | C(C1=CC=CC=C1)OC1=C2CCC(=CC2=CC=C1)CN(C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O
